US07427632B2
N-[(R)-2-(1-Isopropylpiperidine-4-ylmethoxy)-1-phenylethyl]-4-methoxybenzamide hydrochloride
Using coupling method B, (R)-2-(1-isopropylpiperidin-4-ylmethoxy)-1-phenylethylamine (150 mg, 0.54 mmol) and 4-methoxybenzoyl chloride (0.12 mL, 1.0 mmol) afforded, after purification (SiO2: 4:2:1 DCM:EtOAc:isopropyl-amine) and conversion to the HCl salt by general method A, 205 mg (91%) of the title compound.

reactant | (R)-2-(1-isopropylpiperidin-4-ylmethoxy)-1-phenylethylamine | 0.54 mmol, 150 mg | C(C)(C)N1CCC(CC1)COC[C@@H](C1=CC=CC=C1)N | C17H28N2O
reactant | 4-methoxybenzoyl chloride | 1.0 mmol, 0.12 mL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N-[(R)-2-(1-Isopropylpiperidine-4-ylmethoxy)-1-phenylethyl]-4-methoxybenzamide hydrochloride | Cl.C(C)(C)N1CCC(CC1)COC[C@@H](C1=CC=CC=C1)NC(C1=CC=C(C=C1)OC)=O | InChI=1S/C25H34N2O3.ClH/c1-19(2)27-15-13-20(14-16-27)17-30-18-24(21-7-5-4-6-8-21)26-25(28)22-9-11-23(29-3)12-10-22;/h4-12,19-20,24H,13-18H2,1-3H3,(H,26,28);1H/t24-;/m0./s1
